US07781431B2
Step 2: [6-cyclohexyl-2-(methoxycarbonyl)-5-phenyl-4H-thieno[3,2-b]pyrrol-4-yl]acetic acid
A solution (0.1 M) of methyl 4-(2-tert-butoxy-2-oxoethyl)-6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in DCM/TFA (1:1) was stirred at RT for 4 h. Evaporation of the solvent gave the title compound (100%) as a solid.

reactant | methyl 4-(2-tert-butoxy-2-oxoethyl)-6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.1 M | C(C)(C)(C)OC(CN1C2=C(C(=C1C1=CC=CC=C1)C1CCCCC1)SC(=C2)C(=O)OC)=O | C26H31NO4S
solvent | DCM TFA | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | [6-cyclohexyl-2-(methoxycarbonyl)-5-phenyl-4H-thieno[3,2-b]pyrrol-4-yl]acetic acid | 100% | C1(CCCCC1)C=1C2=C(N(C1C1=CC=CC=C1)CC(=O)O)C=C(S2)C(=O)OC | C22H23NO4S
